US07834051B2
rac-4-[(2S,3S)-2-benzyl-3-hydroxy-5-oxopyrrolidin-1-yl]-2-chlorobenzonitrile
To a mixture of 4-(2-benzyl-3-hydroxy-5-oxo-2,5-dihydro-1H-pyrrol-1-yl)-2-chlorobenzonitrile (400 mg) and acetic acid (0.60 mL) in acetonitrile (20 mL) was added sodium borohydride (86 mg) at 0° C. in small portions. The mixture was warmed to room temperature, and stirred for 3 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (eluent: hexane:ethyl acetate=4:1→ethyl acetate), and recrystallized from tetrahydrofuran-hexane to give the title compound as colorless crystals (yield: 310 mg, 77%).

reactant | 4-(2-benzyl-3-hydroxy-5-oxo-2,5-dihydro-1H-pyrrol-1-yl)-2-chlorobenzonitrile | 400 mg | C(C1=CC=CC=C1)C1N(C(C=C1O)=O)C1=CC(=C(C#N)C=C1)Cl | C18H13ClN2O2
reactant | acetic acid | 0.60 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 86 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | rac-4-[(2S,3S)-2-benzyl-3-hydroxy-5-oxopyrrolidin-1-yl]-2-chlorobenzonitrile | yield: 310 mg, 77% | C(C1=CC=CC=C1)[C@@H]1N(C(C[C@@H]1O)=O)C1=CC(=C(C#N)C=C1)Cl | C18H15ClN2O2
